### PR TITLE
Prove BB(3,3) id 494 doesn't halt

### PR DESCRIPTION
**Pull request by int-y1**
bbchallenge link: https://bbchallenge.org/1RB2LA0LA_2LC---2RA_0RA2RC1LC

### CODE REVIEW

File: verify/BB33_494.v [hunk 1]
```diff
@@ -0,0 +1,425 @@
...
+
+Notation "c --> c'" := (c -[ tm ]-> c')   (at level 40).
+Notation "c -->* c'" := (c -[ tm ]->* c') (at level 40).
+Notation "c -->+ c'" := (c -[ tm ]->+ c') (at level 40).
+
+Fixpoint add_l12 (l : side) (n : nat) : side :=
+  match n with
+  | O => l
+  | S n => add_l12 l n << 1 << 2
+  end.
```
Comment (meithecatte) [inline verify/BB33_494.v]: I have refactored out the need for one-off definitions like these – you can write things like this with `l <* <[1; 2]^^n`. Then the `_merge` lemmas all become applications of `lpow_shift`.

As an extended example, you'd have
```coq
Lemma l12_r20 : forall (l r : side) (t : nat),
  l <* <[1; 2]^^t <{{A}} r -->*
  l <{{A}} [2; 0]^^t *> r.
```

Comment (int-y1) [reply verify/BB33_494.v]: Done. I updated the proof to use the new notation. I wrote the new lemmas `merge_1`/`merge_2`/`merge_3` because I couldn't find a better alternative.

File: verify/BB33_494.v [hunk 2]
```diff
@@ -0,0 +1,344 @@
...
+  [s1; s2; s3]^^n *> s1 >> s2 >> s3 >> r = [s1; s2; s3]^^(S n) *> r.
+Proof.
+  intros. rewrite lpow_S, Str_app_assoc, <- lpow_shift'. trivial.
+Qed.
+
+Lemma l12_r20 : forall (l r : side) (t : nat),
+  l <* <[1; 2]^^t <{{A}} r -->*
+  l <{{A}} [2; 0]^^t *> r.
+Proof.
+  intros. revert r. induction t. { execute. }
```
Comment (meithecatte) [inline verify/BB33_494.v]: I find that a good way of avoiding `intros` followed by `revert` is to state the lemma as `forall (t : nat) (l r : side)` instead, then you can start with `induction t.`

File: verify/BB33_494.v [hunk 3]
```diff
@@ -0,0 +1,344 @@
...
+  execute. follow IHt. rewrite merge_2. finish.
+Qed.
+
+Lemma r20_2_l12 : forall (l r : side) (t : nat),
+  l << 0 <{{A}} [2; 0]^^t *> (2 >> r) -->*
```
Comment (meithecatte) [inline verify/BB33_494.v]:
```suggestion
  l << 0 <{{A}} [2; 0]^^t *> 2 >> r -->*
```

I don't think these parens are necessary?

File: verify/BB33_494.v [hunk 4]
```diff
@@ -0,0 +1,344 @@
...
+Lemma R2 : forall (l r : side) (s t u : nat),
+  l <* [0]^^(S s) <* [2; 1]^^t {{A}}> [1]^^(S u) *> r -->*
+  l <* [0]^^s <* [2; 1]^^(S t) {{A}}> [1]^^u *> r.
+Proof.
+  execute. follow l12_r20. follow r20_2_l12. trivial.
+Qed.
+
+(* 0^∞ A> 1^s => 0^∞ (12)^s A> *)
+Lemma R2_finish : forall (r : side) (s : nat),
+  (const 0) {{A}}> [1]^^s *> r -->*
```
Comment (meithecatte) [inline verify/BB33_494.v]:
```suggestion
  const 0 {{A}}> [1]^^s *> r -->*
```

File: verify/BB33_494.v [hunk 5]
```diff
@@ -0,0 +1,344 @@
...
+  intros. revert r. induction t. { execute. }
+  execute. follow IHt. rewrite merge_2. finish.
+Qed.
+
+Lemma r20_2_l12 : forall (l r : side) (t : nat),
+  l << 0 <{{A}} [2; 0]^^t *> (2 >> r) -->*
+  l <* [2; 1]^^(S t) {{A}}> r.
+Proof.
+  intros. revert l. induction t. { execute. }
+  intros. step. step. follow IHt. rewrite merge_2. finish.
```
Comment (meithecatte) [inline verify/BB33_494.v]: The usual way I avoid stepping the machine one by one is to make sure that all the lemmas are stated in the normal form of "head points at something for which you can't get the first symbol by reduction". So, `blah^^t` or some sort of machine-specific function that converts binary numbers to tape...

File: verify/BB33_494.v [hunk 6]
```diff
@@ -0,0 +1,344 @@
...
+  match i with
+  | O => 10
+  | S i => 3 * a i + (a i / 2) + 3
+  end.
+
+Lemma a_le_aS : forall (i : nat),
+  7 * a i + 5 <= 2 * a (S i).
+Proof.
+  intros. replace (a (S i)) with (3 * a i + (a i / 2) + 3) by trivial.
+  assert (H: _) by (refine (Nat.mul_succ_div_gt (a i) 2 _); lia).
```
Comment (meithecatte) [inline verify/BB33_494.v]:
```suggestion
  pose proof (Nat.mul_succ_div_gt (a i) 2) as H.
```

(you could also specify the hypothesis with `... (a i) 2 ltac:(lia)`, but why bother.

File: verify/BB33_494.v [hunk 7]
```diff
@@ -0,0 +1,344 @@
...
+Fixpoint a (i : nat) : nat :=
+  match i with
+  | O => 10
+  | S i => 3 * a i + (a i / 2) + 3
+  end.
+
+Lemma a_le_aS : forall (i : nat),
+  7 * a i + 5 <= 2 * a (S i).
+Proof.
+  intros. replace (a (S i)) with (3 * a i + (a i / 2) + 3) by trivial.
```
Comment (meithecatte) [inline verify/BB33_494.v]: In general, if you're doing `replace` on something that is equal by reflexivity, you can just use the `change` tactic:
```suggestion
  intros. change (a (S i)) with (3 * a i + (a i / 2) + 3).
```
However, in this case, you can simply ask Coq to perform reductions by using only the definition of `a`:
```suggestion
  intros. cbn[a].
```

File: verify/BB33_494.v [hunk 8]
```diff
@@ -0,0 +1,344 @@
...
+  induction i as [| i [H1 H2]]. { split; trivial. }
+  split.
+  - replace (cc (S i)) with (a i - 2 * (cc i - c i) - 4) by trivial.
+    enough (2 * c (S i) <= a i + 2 * c i + 2) by lia.
+    replace (c (S i)) with (c i + (a i / 2) + 1) by trivial.
+    assert (H: _) by exact (Nat.Div0.mul_div_le (a i) 2).
+    lia.
+  - replace (cc (S i)) with (a i - 2 * (cc i - c i) - 4) by trivial.
+    assert (Ha4: 4 <= a i). { clear H1 H2. induction i; simpl; lia. }
+    assert (Hi: _) by exact (a_le_aS i).
```
Comment (meithecatte) [inline verify/BB33_494.v]:
```suggestion
    pose proof (a_le_aS i) as Hi.
```

File: verify/BB33_494.v [hunk 9]
```diff
@@ -0,0 +1,344 @@
...
+Qed.
+
+Lemma D_step_cc : forall (i : nat) (r : side), exists (r' : side),
+  D (a i) (cc i - c i) r -->+
+  D (a 0) (cc (S i) - c 0) r'.
+Proof.
+  intros. simpl c. exists ([0]^^(7 * (cc i - c i) + 1) *> 2 >> 0 >> 2 >> r).
+  assert (Ha: a i = (a i - 2 * (cc i - c i) - 4) + 2 * (cc i - c i) + 4).
+  { destruct (cc_bounds (S i)) as [H _]. simpl in H. lia. }
+  rewrite Ha. eapply progress_evstep_trans. { apply D_lt. }
```
Comment (meithecatte) [inline verify/BB33_494.v:262]: I should integrate `progress_evstep_trans` into `follow` at some point...

File: verify/BB33_494.v [hunk 10]
```diff
@@ -0,0 +1,344 @@
...
+  replace (cc (S i)) with (a i - 2 * (cc i - c i) - 4) by trivial.
+  finish.
+Qed.
+
+Lemma c_monotone : forall (i j : nat),
+  c i <= c (i + j).
+Proof.
+  (* todo: golf the proof of base case *)
```
Comment (meithecatte) [inline verify/BB33_494.v]: This is best done by stating the lemma in a more Coq-friendly way:
```coq
Lemma c_monotone : forall (i j : nat),
  c i <= c (j + i).
Proof.
  induction j.
  - auto.
  - simpl. lia.
Qed.
```

In fact, I'd then prove a different form, to make it easier to use with `apply`:
```coq
Lemma c_monotone' : forall (i k : nat),
  i <= k -> c i <= c k.
Proof.
  introv H. replace k with (k - i + i) by lia.
  apply c_monotone.
Qed.
```

Then later, in `D_step_a`, you can do
```coq
  assert (Hcc: (a i)/2+1 <= cc (S (j + i)) - c i).
  { destruct (cc_bounds (S (j+i))) as [H1 _].
    assert (H2: c (S i) <= c (S (j + i))).
    { apply c_monotone'. lia. }
    unfold c in H2 at 1. fold c in H2. lia. }
```

File: verify/BB33_494.v [hunk 11]
```diff
@@ -0,0 +1,344 @@
...
+  D (a 0) (cc (S i) - c 0) r'.
+Proof.
+  intros. destruct (D_step_cc i r) as [r' H]. exists r'.
+  follow D_step_a_finish. exact H.
+Qed.
+
+Lemma nonhalt : ~ halts tm c0.
+Proof.
+  apply multistep_nonhalt with (D (a 0) (cc 0 - c 0) (const 0)).
+  { apply (evstep_trans _ _ (C 1 5 (0+1) (const 0))).
```
Comment (meithecatte) [inline verify/BB33_494.v]:
```suggestion
  { apply evstep_trans with (C 1 5 (0+1) (const 0)).
```

**Review by meithecatte — APPROVED** [review]
Nice, this is a very clean proof. I took the opportunity to point out some Coq tips. Feel free to apply a subset of your choice – and let me know when you're ready for me to merge this.

File: verify/BB33_494.v (hunk 10 above)
Comment (int-y1) [reply verify/BB33_494.v]: Done. I kept the statement as `forall (i j : nat), c i <= c (j + i)` because I only used this lemma once.

File: verify/BB33_494.v (hunk 7 above)
Comment (int-y1) [reply verify/BB33_494.v]: Done. I also used `change` and `cbn` in other possible locations.

File: verify/BB33_494.v (hunk 5 above)
Comment (int-y1) [reply verify/BB33_494.v]: The proof sketch always used `l = const 0`. I replaced `l << 0` and `l` with `const 0` and removed stepping.

**Comment by int-y1** [comment]
I'm ready for these changes to be merged.
